US05556853
In substantially the same manner as in Example 5, morpholine (275 μl) was condensed with Boc-3-(1-naphthyl)-L-alanine (970 mg, manufactured by Bachem Fein Chemikalien AG, Switzerland) to give N-[Boc-3-(1-naphthyl)-L-alanyl]morpholine (1.18 g) as a white powder (yield quantitative). After Boc group elimination with TFA, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate (620 mg) as obtained in Reference Example 8 to yield the title compound (compound 79; 1.09 g) as a white powder (yield 75%).

reactant | morpholine | 275 μl | N1CCOCC1 | C4H9NO
reactant | Boc-3-(1-naphthyl)-L-alanine | 970 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)O | C18H21NO4
product | N-[Boc-3-(1-naphthyl)-L-alanyl]morpholine | 1.18 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)N1CCOCC1 | C22H28N2O4
